US04563310
Following the procedure of Example 32, P-ethyl-2-nitro-5-(2-nitro-4-trifluoromethyl-anilino)phenylphosphinic acid is reacted with methylbromoacetate to give methoxycarbonylmethyl P-ethyl-2-nitro-5-(2-nitro-4-trifluoromethylanilino)phenylphosphinate.

reactant | P-ethyl-2-nitro-5-(2-nitro-4-trifluoromethyl-anilino)phenylphosphinic acid | C(C)P(O)(=O)C1=C(C=CC(=C1)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C15H13F3N3O6P
reactant | methylbromoacetate | COC(CBr)=O | C3H5BrO2
product | methoxycarbonylmethyl P-ethyl-2-nitro-5-(2-nitro-4-trifluoromethylanilino)phenylphosphinate | C(C)P(OCC(=O)OC)(=O)C1=C(C=CC(=C1)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C18H17F3N3O8P
